US08735384B2
To a solution of 2-phenethylamine (0.28 mL, 2.195 mmol) in DCM (2.0 mL) was added 2-bromo-3-methylbenzoyl chloride (0.15 mL, 0.998 mmol) dropwise via syringe at ambient temperature. Mixture was allowed to stir overnight, then diluted with water (30 mL) and extracted with DCM (30 mL). The organic extract was washed with 1N HCl (2×25 mL) and 1N NaOH (2×25 mL) and dried over MgSO4. The solution was filtered and concentrated in vacuo to give 2-bromo-3-methyl-N-phenethylbenzamide as a white solid.

reactant | 2-phenethylamine | 2.195 mmol, 0.28 mL | C1=CC=C(C=C1)CCN | C8H11N
reactant | 2-bromo-3-methylbenzoyl chloride | 0.998 mmol, 0.15 mL | BrC1=C(C(=O)Cl)C=CC=C1C | C8H6BrClO
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 2-bromo-3-methyl-N-phenethylbenzamide | BrC1=C(C(=O)NCCC2=CC=CC=C2)C=CC=C1C | C16H16BrNO
